US06514975B1
(3S)-1-Benzyl-3-methylpiperazine
(S)-(+)-2-Methylpiperazine (2.63 g), benzylbromide (3.12 ml) and potassium carbonate (5.4 g) were heated together in acetonitrile (120 ml) at 40° C. for 3 days. The mixture was evaporated to dryness in vacuo and the residue partitioned between aqueous sodium bicarbonate solution and ethyl acetate. The organic phase was separated, dried (magnesium sulphate) and evaporated to dryness in vacuo. The residue was purified by column chromatography over silica gel using gradient elution (95/510 to 92/7/1 dichloromethane/methanol/ammonium hydroxide) to afford the title compound as a solid, 1.12 g.

reactant | (S)-(+)-2-Methylpiperazine | 2.63 g | C[C@@H]1NCCNC1 | C5H12N2
reactant | benzylbromide | 3.12 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 5.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | (3S)-1-Benzyl-3-methylpiperazine | C(C1=CC=CC=C1)N1C[C@@H](NCC1)C | C12H18N2
